US06608072B1
a) 5-Nitro-6-amino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine
6-Amino-2-chloro-5-nitropyridine (Acros, 3.66 g 21 mmol) and 1-ethoxycarbonylpiperazine (6.36 g 42 mmol) in isopropanol (85 ml) are refluxed for 3 h. The reaction mixture with a yellow precipitate is poured on water/Na2CO3 and extracted twice with methylene chloride. The combined organic phases are dried over Na2SO4, filtered and evaporated to dryness to yield the title compound as yellow crystals, which are purified by recrystallisation from tert.-butyl methyl ether (5.5 g 89%).

reactant | 6-Amino-2-chloro-5-nitropyridine | 21 mmol, 3.66 g | NC1=C(C=CC(=N1)Cl)[N+](=O)[O-] | C5H4ClN3O2
reactant | 1-ethoxycarbonylpiperazine | 42 mmol, 6.36 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | isopropanol | 85 ml | C(C)(C)O | C3H8O
product | 5-Nitro-6-amino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine | [N+](=O)([O-])C=1C=CC(=NC1N)N1CCN(CC1)C(=O)OCC | C12H17N5O4
